US05710166
Preparation of 3-[4-cyanobenzyl]aminobenzoic acid
4-cyanobenzaldehyde (0.65 g; 5 mmoles), 3-aminobenzoic acid (0.68 g; 5 mmoles) and sodiumcyanoborohydride (0.35 g; 5 mmols) were stirred in N,N-dimethylformamide (25 ml) containing 1% acetic acid at room temperature for 2 hrs. The product was precipitated out by addition of water. The solid was filtered and dried in vacuo to give 0.95 g white solid. FAB-MS: MH+ =253.

reactant | 4-cyanobenzaldehyde | 5 mmoles, 0.65 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 3-aminobenzoic acid | 5 mmoles, 0.68 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | sodiumcyanoborohydride | 5 mmols, 0.35 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 3-[4-cyanobenzyl]aminobenzoic acid | 0.95 g | C(#N)C1=CC=C(CNC=2C=C(C(=O)O)C=CC2)C=C1 | C15H12N2O2
